US07737279B2
A446.1: 6-Bromo-pyridine-2-carboxylic acid tert-butylamide
2,6-Dibromopyridine (40 g, 170 mmol) in THF (200 mL) was added dropwise over 1 hr to a cooled (−78 C) solution of n-butyllithium (2.0M in pentane, 85 mL, 170 mmol) in THF (100 mL) under a nitrogen atmosphere. The mixture was allowed to stir for an additional 15 min, then tert-butyl isocyanate was added dropwise over 5 min. The resulting reaction mixture was allowed to warm slowly to room temperature overnight before quenching with saturated ammonium chloride solution (200 mL) and extracting with ethyl acetate (2×100 mL). The combined organics were dried (MgSO4) and evaporated in vacuo to yield the cude product A466.1 (42.4 g) as a dark brown oil which was used immediately without further purification. HPLC YMC S-5 4.6×33 mm (2 min grad): retention time 1.76 min, M+H+=203.08

reactant | 2,6-Dibromopyridine | 170 mmol, 40 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | n-butyllithium | 170 mmol, 2.0M, 85 mL | C(CCC)[Li]
reactant | tert-butyl isocyanate | C(C)(C)(C)N=C=O | C5H9NO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-Bromo-pyridine-2-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1=NC(=CC=C1)Br | C10H13BrN2O
